US06375926B1
Step G 4-[2-Methoxyethylthio]-3,3-diethyl-2-azetidinone (Compound 12)
To S-triphenylmethyl 2-methoxyethanethiol (1.37 g, 4.1 mmol) in dichloromethane (30 ml) under nitrogen were added triethylsilane (0.953 g, 1.31 ml, 8.2 mmol) and trifluoroacetic acid (0.632 ml, 0.935 g, 8.2 mmol). The mixture was stirred at room temperature for 16 hours. Acetone (50 ml) was added and the mixture neutralised with 2 M aqueous sodium hydroxide. 1 M Aqueous sodium hydroxide (24 ml, 24 mmol), 4-acetoxy-3,3-diethyl-2-azetidinone (J. Med. Chem., 35, 3745-3754 (1992)) (0.690 g, 6.00 mmol) and acetone (10 ml) were then added and the mixture stirred at room temperature for 23 hours. The solvents were removed in vacuo and to the residue were added water (50 ml) and dichloromethane (50 ml). The organic layer was isolated and the water layer extracted further with dichloromethane (3×30 ml). The 4 organic layers were combined and washed with water (30 ml) and saturated brine (30 ml), dried (Na2SO4) and concentrated in vacuo. Purification by flash column chromatography (gradient from petrol/EtOAc, 9:1 to EtOAc) gave the title compound (0.51 g, 63%) as an oil.

reactant | S-triphenylmethyl 2-methoxyethanethiol | 4.1 mmol, 1.37 g | C1(=CC=CC=C1)C(SCCOC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22OS
reactant | triethylsilane | 8.2 mmol, 1.31 ml, 0.953 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 8.2 mmol, 0.632 ml, 0.935 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | sodium hydroxide | 24 mmol, 1 M, 24 ml | [OH-].[Na+]
reactant | 4-acetoxy-3,3-diethyl-2-azetidinone | 6.00 mmol, 0.690 g | C(C)(=O)OC1C(C(N1)=O)(CC)CC | C9H15NO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | Acetone | 50 ml | CC(=O)C | C3H6O
product | 4-[2-Methoxyethylthio]-3,3-diethyl-2-azetidinone | 0.51 g, 63% | COCCSC1C(C(N1)=O)(CC)CC | C10H19NO2S
